US06653471B2
To a solution of 4-oxo-1,4,5,6,7,8-hexahydro-cyclohepta[b]pyrrole-3-carboxylic acid ethyl ester (4.80 g, 21.7 mmol) and Et3N (3.93 mL, 28.2 mmol) in CH2Cl2(40 mL) at 0° C. is added Boc2O (5.68 g, 26.0 mmol) in one portion. The reaction mixture is allowed to stir at 0° C. for 10 min. and then at room temperature for 18 h. The reaction mixture is then diluted with half saturated aq NH4Cl (70 mL) and extracted with EtOAc. The organic layer is then washed with H2O (50 mL) and brine (50 mL). The aqueous washes are reextracted once with EtOAc, and the combined extracts are dried over Na2SO4 and concentrated. The crude material is purified by flash chromatography on silica gel. Elution with 4:1 hexanes-ethyl acetate followed by 3:1 hexanes-ethyl acetate afforded 7.00 g (quant) of 4-oxo-5,6,7,8-tetrahydro-4H-cyclohepta[b]pyrrole-1,3-dicarboxylic acid 1-tert-butyl ester 3-ethyl ester as a light yellow solid. 1H NMR (CDCl3, 300 MHz) δ7.62 (s, 1H), 4.27 (q, J=7.2 Hz, 2H), 3.22 (m, 2H), 2.78 (m, 2H), 1.86 (m, 4H), 1.60 (s, 9H), 1.31 (t, J=7.2 Hz)

reactant | 4-oxo-1,4,5,6,7,8-hexahydro-cyclohepta[b]pyrrole-3-carboxylic acid ethyl ester | 21.7 mmol, 4.80 g | C(C)OC(=O)C=1C2=C(NC1)CCCCC2=O | C12H15NO3
reactant | Et3N | 28.2 mmol, 3.93 mL | CCN(CC)CC | C6H15N
reactant | Boc2O | 26.0 mmol, 5.68 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
solvent | NH4Cl | 70 mL | [NH4+].[Cl-]
product | 4-oxo-5,6,7,8-tetrahydro-4H-cyclohepta[b]pyrrole-1,3-dicarboxylic acid 1-tert-butyl ester 3-ethyl ester | 7.00 g | C(C)OC(=O)C=1C2=C(N(C1)C(=O)OC(C)(C)C)CCCCC2=O | C17H23NO5
